US07138401B2
A solution of purine in MeOH/THF/acetate buffer (1N in each AcOH and AcONa) was treated with Br2 (1.3-equiv. 1M in CHCl3) at room temperature (r.t.) for 16 h. Evaporation, work-up (EtOAc), drying (MgSO4) and flash chromatography afforded the desired 8-bromopurine.

reactant | purine | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | AcOH | CC(=O)O | C2H4O2
reactant | AcONa | C(=O)(C)O[Na]
reactant | Br2 | 1M, 1.3-equiv | BrBr | Br2
solvent | MeOH THF acetate | CO.C1CCOC1.C(C)(=O)[O-]
product | 8-bromopurine | BrC1=NC2=NC=NC=C2N1 | C5H3BrN4
